US07750185B2
Preparation of 2,2-bis(4-nitrobenzyl)-1,3-propandiol
4.00 g (10.69 mmol) 2,2-bis(4-nitrobenzyl)malonic acid were dissolved in 40 ml tetrahydrofuran and added dropwise in a the course of 2 hours to 64.1 ml (64.1 mmol) of a borane-tetrahydrofuran complex 1.0 M solution in tetrahydrofuran. After 19 hours at 25° C., 50 ml water were carefully added. The reaction mixture was then partitioned between ethyl acetate and water; the organic phase was washed repeatedly with water, dried over sodium sulfate, filtered and concentrated by rotary evaporation. The residue, 3.77 g (97%) of a white powder was used without further purification.

reactant | 2,2-bis(4-nitrobenzyl)malonic acid | 10.69 mmol, 4.00 g | [N+](=O)([O-])C1=CC=C(CC(C(=O)O)(C(=O)O)CC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C17H14N2O8
reactant | water | 50 ml | O | H2O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 2,2-bis(4-nitrobenzyl)-1,3-propandiol | [N+](=O)([O-])C1=CC=C(CC(CO)(CO)CC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C17H18N2O6
